US06545016B1
2-(ethoxymethyl)-6,7-dimethyl-1-[2-(1-{[(1R*,2R*)-2-phenylcyclopropyl]carbonyl}piperidin-4-yl)ethyl]-1H-imidazo[4,5-c]pyridin-4-amine
Using the method of Examples 61-75, trans-2-phenyl-1-cyclopropanecarbonyl chloride was reacted with 2-(ethoxymethyl)-6,7-dimethyl-1-(2-piperidin-4-ylethyl)-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired product. The observed accurate mass was 476.3039.

reactant | trans-2-phenyl-1-cyclopropanecarbonyl chloride | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
reactant | 2-(ethoxymethyl)-6,7-dimethyl-1-(2-piperidin-4-ylethyl)-1H-imidazo[4,5-c]pyridin-4-amine | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCC1CCNCC1 | C18H29N5O
product | 2-(ethoxymethyl)-6,7-dimethyl-1-[2-(1-{[(1R*,2R*)-2-phenylcyclopropyl]carbonyl}piperidin-4-yl)ethyl]-1H-imidazo[4,5-c]pyridin-4-amine | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCC1CCN(CC1)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1 | C28H37N5O2
